US07691877B2
6-Allyl-N2,N4-dibenzyl-3-nitro-pyridine-2,4-diamine
N*2*,N*4*-Dibenzyl-6-bromo-3-nitro-pyridine-2,4-diamine (1 g, 2.4 mmol) was stirred in anhydrous tetrahydrofuran (20 ml) and the solution degassed with nitrogen prior to the addition of palladium acetate (109 mg, 0.48 mmol) and allyltributyltin (1.1 ml, 3.6 mmol). The reaction mixture was degassed for 10 minutes before heating the suspension at 80° C. for 16 h. The suspension was cooled to ambient temperature, concentrated in vacuo and purified directly by column chromatography on silica, eluting with pentane:EtOAc, 9:1 to afford the title compound as a yellow solid, (696 mg, 77%)

reactant | N*2*,N*4*-Dibenzyl-6-bromo-3-nitro-pyridine-2,4-diamine | 2.4 mmol, 1 g | C(C1=CC=CC=C1)NC1=NC(=CC(=C1[N+](=O)[O-])NCC1=CC=CC=C1)Br | C19H17BrN4O2
reactant | allyltributyltin | 3.6 mmol, 1.1 ml | C(C=C)[Sn](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | palladium acetate | 0.48 mmol, 109 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-Allyl-N2,N4-dibenzyl-3-nitro-pyridine-2,4-diamine | 696 mg, 77% | C(C=C)C1=CC(=C(C(=N1)NCC1=CC=CC=C1)[N+](=O)[O-])NCC1=CC=CC=C1 | C22H22N4O2
